US04559342
3.3 g (0.01 mole) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid in 50 ml of dimethylformamide are heated at 90° C. with 2.5 g (0.015 mole) of ethyl bromoacetate, 2.1 g (0.02 mole) of triethylamine and 2.5 g of potassium iodide for 5 hours. The reaction mixture is poured into 30 ml of water and the precipitate is filtered off with suction, washed with water and recrystallised from methanol. 2.5 g of 1-cyclopropyl-6-fluoro-7-[4-ethoxycarbonylmethyl)-1-piperazinyl]-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid of melting point 192° to 194° C. are obtained.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 0.01 mole, 3.3 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C17H18FN3O3
reactant | ethyl bromoacetate | 0.015 mole, 2.5 g | BrCC(=O)OCC | C4H7BrO2
reactant | triethylamine | 0.02 mole, 2.1 g | C(C)N(CC)CC | C6H15N
reactant | potassium iodide | 2.5 g | [I-].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | 1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | O=C1C(=CNC2=CC=CC=C12)C(=O)O | C10H7NO3
